US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-5-(4-thiomorpholinophenyl)-pyrrolidine-2,4-dione
The compound was synthesized starting from 1H-benzo[d]imidazol-5-amine (0.963 g, 7.24 mmol), 4-thiomorpholinobenzaldehyde (1.5 g, 7.24 mmol), 2-(ethoxycarbonyl)acetic acid (0.957 g, 7.24 mmol), 1-isocyano-2-methylpropan-2-yl methyl carbonate (1.13 g, 7.24 mmol) and sodium tert.-butoxide (0.77 g, 6.87 mmol) according to method 3.

reactant | 1H-benzo[d]imidazol-5-amine | 7.24 mmol, 0.963 g | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-thiomorpholinobenzaldehyde | 7.24 mmol, 1.5 g | S1CCN(CC1)C1=CC=C(C=O)C=C1 | C11H13NOS
reactant | 2-(ethoxycarbonyl)acetic acid | 7.24 mmol, 0.957 g | C(C)OC(=O)CC(=O)O | C5H8O4
reactant | 1-isocyano-2-methylpropan-2-yl methyl carbonate | 7.24 mmol, 1.13 g | C(OC(C[N+]#[C-])(C)C)(OC)=O | C7H11NO3
reactant | sodium tert.-butoxide | 6.87 mmol, 0.77 g | CC(C)([O-])C.[Na+]
product | 1-(1H-Benzo[d]imidazol-5-yl)-5-(4-thiomorpholinophenyl)-pyrrolidine-2,4-dione | N1C=NC2=C1C=CC(=C2)N2C(CC(C2C2=CC=C(C=C2)N2CCSCC2)=O)=O | C21H20N4O2S
